US09120772B2
644 mg (3.3 mmol, 2 eq) of C-(5-methylfuran-2-yl)-C-(tetrahydropyran-4-yl)methylamine were added to 500 mg (1.64 mmol, 1 eq) of 3-(2-ethoxy-3,4-dioxocyclobut-1-enylamino)-2-hydroxy-N,N-dimethylbenzamide dissolved under hot conditions in 50 ml of methanol. The reaction medium was stirred at ambient temperature for 21 hours. The methanol was evaporated off and the residue (green oil) was chromatographed on silica gel (column Analogix SF15-40 g, Spot II) eluted with dichloromethane/methanol (gradient). 700 mg of 2-hydroxy-N,N-dimethyl-3-(2-{[(5-methylfuran-2-yl)-(tetrahydropyran-4-yl)methyl]amino}-3,4-dioxocyclobut-1-enylamino)benzamide were obtained. (M.p.=137-140° C.). Yield=94%. LC/MS: 97.1% [453]

reactant | C-(5-methylfuran-2-yl)-C-(tetrahydropyran-4-yl)methylamine | 3.3 mmol, 644 mg, 2 eq | CC1=CC=C(O1)C(C1CCOCC1)N | C11H17NO2
reactant | 3-(2-ethoxy-3,4-dioxocyclobut-1-enylamino)-2-hydroxy-N,N-dimethylbenzamide | 1.64 mmol, 500 mg, 1 eq | C(C)OC1=C(C(C1=O)=O)NC=1C(=C(C(=O)N(C)C)C=CC1)O | C15H16N2O5
solvent | methanol | 50 ml | CO | CH4O
product | 2-hydroxy-N,N-dimethyl-3-(2-{[(5-methylfuran-2-yl)-(tetrahydropyran-4-yl)methyl]amino}-3,4-dioxocyclobut-1-enylamino)benzamide | 700 mg, Yield=94% | OC1=C(C(=O)N(C)C)C=CC=C1NC1=C(C(C1=O)=O)NC(C1CCOCC1)C=1OC(=CC1)C | C24H27N3O6
